US04665187
3.62 g of 3-(4-hydroxy-4-phenyl-1-piperidyl-methyl)-5-p-fluorophenyl-pyridine (obtainable by reaction of 3-bromomethyl-5-p-fluorophenyl-pyridine with 4-piperidone, subsequent reaction with C6H5Li and hydrolysis) are heated at 50° with 40 ml of 1N hydrochloric acid for 2 hours and the mixture is worked up in the customary manner to give 3-(4-phenyl-1,2,3,6-tetrahydropyridyl-methyl)-5-p-fluorophenyl-pyridine, melting point: 128°-129°.

reactant | 3-(4-hydroxy-4-phenyl-1-piperidyl-methyl)-5-p-fluorophenyl-pyridine | 3.62 g | OC1(CCN(CC1)CC=1C=NC=C(C1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C23H23FN2O
solvent | hydrochloric acid | 1N, 40 ml | Cl | ClH
product | 3-(4-phenyl-1,2,3,6-tetrahydropyridyl-methyl)-5-p-fluorophenyl-pyridine | C1(=CC=CC=C1)C=1CCN(CC1)CC=1C=NC=C(C1)C1=CC=C(C=C1)F | C23H21FN2
